US04473575
A mixture of 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-5-hydroxy-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one (2.1 g), dicyclohexylcarbodiimide (1.8 g) and cuprous chloride (0.2 g) is heated at 80° under nitrogen for 32 hours. The reaction mixture is cooled to room temperature, the residue is dissolved in methylene chloride (200 ml), washed with dilute ammonium hydroxide (2×50 ml) and water (50 ml). The organic phase is dried over sodium sulfate and evaporated to give a mixture of the desired adduct and excess dicyclohexylcarbodiimide. This mixture is dissolved in ethyl acetate (100 ml) and placed in a pressure bottle. 10% Pd/C (0.4 g) is added and the mixture hydrogenated at 3 atmospheres pressure and 40° for 16 hours. The catalyst is filtered off and the filtrate is evaporated to give 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one, used without further purification for the next synthetic step.

reactant | 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-5-hydroxy-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one | 2.1 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2C(C(C1)O)CCCC2)CC(=O)OCC)=O | C19H32N2O6
reactant | dicyclohexylcarbodiimide | 1.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 3-(S)-t-butyloxycarbonylamino-1-ethoxycarbonylmethyl-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2C(CC1)CCCC2)CC(=O)OCC)=O | C19H32N2O5
